US05801253
290 mg of NaH (50% in mineral oil) was suspended in 8 ml of abs. THF and treated at 0° C. with 1.69 g of 4-(diethoxyphosphinyl)-3-methyl-crotonic acid ethyl ester. When the development of H2 had ceased (1/2 hour at 0° C.), 1.04 g of (E)-2-bromo-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-enal, dissolved in 8 ml of abs. THF, was added and stirring continued for 3/4 hour at 0° C. and for 1 hour at room temperature. The reaction mixture was then quenched with crashed ice and extracted with EtOEt. Twice washing with brine, drying over Na2SO4 and evaporation of the solvent afforded the crude product which was purified by flash chromatography (silica gel, hexane/AcOEt=98:2) to give 527 mg of (2E,4E,6E)-6-bromo-3-methyl-7-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-octa-2,4,6-trienoic acid ethyl ester as yellow crystals of m.p. 97°-98.5° C.

reactant | NaH | 290 mg | [H-].[Na+]
reactant | 4-(diethoxyphosphinyl)-3-methyl-crotonic acid ethyl ester | 1.69 g | C(C)OC(\C=C(\CP(=O)(OCC)OCC)/C)=O | C11H21O5P
reactant | (E)-2-bromo-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-enal | 1.04 g | Br\C(\C=O)=C(/C)\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H23BrO
solvent | THF | C1CCOC1 | C4H8O
product | (2E,4E,6E)-6-bromo-3-methyl-7-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-octa-2,4,6-trienoic acid ethyl ester | 527 mg | C(C)OC(\C=C(\C=C\C(=C(\C)/C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)\Br)/C)=O | C25H33BrO2
